US08609698B2
2-Hydrazino-5-methylpyridine
5.7 ml (5.9 g, 117.6 mmol) of hydrazine hydrate are added to 1.0 g (7.8 mmol) of 2-chloro-5-methylpyridine, and the mixture is stirred at boiling point (bath temperature 150° C.) for 16 h. The reaction mixture is cooled and then concentrated on a rotary evaporator, and the residue is co-evaporated three times with in each case 10 ml of ethylene glycol monoethyl ether. The residue is then taken up in dichloromethane, the precipitate is separated off and the filtrate is concentrated under reduced pressure.

reactant | hydrazine hydrate | 117.6 mmol, 5.7 ml, 5.9 g | O.NN
reactant | 2-chloro-5-methylpyridine | 7.8 mmol, 1.0 g | ClC1=NC=C(C=C1)C | C6H6ClN
product | 2-Hydrazino-5-methylpyridine | N(N)C1=NC=C(C=C1)C | C6H9N3
